US07074800B1
Using an analogous procedure to that described in Example 244, 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (407 mg, 1.21 mmol), (prepared as described for the starting material in Example 67), 4-fluoro-5-hydroxyindole (220 mg, 1.45 mmol) (prepared as described for the starting material in Example 242), and potassium carbonate (251 mg, 1.82 mmol) in DMF (6 ml) were heated at 95° C. for 90 minutes and purified to give 4-(4-fluoroindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (367 mg, 67%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 1.21 mmol, 407 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | 4-fluoro-5-hydroxyindole | 1.45 mmol, 220 mg | FC1=C2C=CNC2=CC=C1O | C8H6FNO
reactant | potassium carbonate | 1.82 mmol, 251 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 4-(4-fluoroindol-5-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 367 mg, 67% | FC1=C2C=CNC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C25H27FN4O3
